US09108959B2
5-Chlorobenzoxazole (3-2)
To a 250 mL 3-neck round bottom flask equipped with a distillation head, glass stopper, septum, thermocouple and magnetic stir bar was charged 2-amino-4-chlorophenol (20.00 g, 0.139 mol). The solid was dissolved in THF (60 mL) and p-TsOH (0.265 g, 1.39 mmol) was added. The brown solution was warmed to 60° C. over 10 min and aged for 90 min. HPLC assay of the reaction mixture showed 1 LCAP unreacted starting material. The temperature was increased from 60° C. to 74° C., and at 63° C. solvent distillation began. A total of 58 mL was collected during the first distillation. The mixture was diluted with THF (60 mL) and a total of 67 mL of solvent was removed between 71 and 84° C. The mixture was again diluted with THF (60 mL) and 61 mL of solvent was removed between 74 and 114° C. The dark brown solution was cooled to room temperature. The final mass of the solution was 27.96 g. Analysis of the crude stream by 1H NMR showed 0.1 wt % MeOH present in the sample. 1H NMR (500 MHz, CDCl3): δ=8.10 (s, 1H), 7.76 (d, J=1.5 Hz, 1H), 7.50 (d, J=8.7 Hz, 1H), 7.36 ppm (dd, J=8.7, 1.7 Hz, 1H).

reactant | 2-amino-4-chlorophenol | 0.139 mol, 20.00 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | p-TsOH | 1.39 mmol, 0.265 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | LCAP | CC(=O)OO | C2H4O3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 5-Chlorobenzoxazole | ClC=1C=CC2=C(N=CO2)C1 | C7H4ClNO
